US07291631B2
To a stirred solution of [3-(3-nitrophenyl)-pyridin-2-yl]-methanol (69 mg, 0.30 mmol) (Agrawal, K. C. et al. J. Med. Chem. 1974, 17, 631-5) in dry CH2Cl2 (5 mL) was added activated MnO2 (90% purity, <10 micron, 251 mg, 2.89 mmol). The resulting heterogeneous mixture was stirred 2 d, at which point the black slurry was filtered through a cake of celite and washed with CH2Cl2 (3×15 mL). The combined washings were concentrated to afford 66 mg (96%) of 3-(3-nitrophenyl)-pyridine-2-carbaldehyde as a pale white solid, which was used in subsequent reactions without further purification. 1H NMR (CDCl3) δ 7.60-7.69 (m, 3H), 7.77 (dd, 1H, J=7.8, 1.5 Hz), 8.21-8.23 (m, 1H), 8.30-8.35 (m, 1H), 8.91 (dd, 1H, J=4.5, 1.5 Hz), 10.12 (s, 1H).

reactant | [3-(3-nitrophenyl)-pyridin-2-yl]-methanol | 0.30 mmol, 69 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1C(=NC=CC1)CO | C12H10N2O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 2.89 mmol, 251 mg | O=[Mn]=O
product | 3-(3-nitrophenyl)-pyridine-2-carbaldehyde | 66 mg, 96% | [N+](=O)([O-])C=1C=C(C=CC1)C=1C(=NC=CC1)C=O | C12H8N2O3
